US07417056B2
5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2-methylisoquinol-1(2H)-one
Analogously to Example 1, 4-(2,3-dihydro-5-fluoro-7-benzofuranyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal is converted with 5-amino-2-methylisoquinol-1(2H)-one into the corresponding imine. After reaction with sodium borohydride, the title compound is obtained.

reactant | 4-(2,3-dihydro-5-fluoro-7-benzofuranyl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentanal | FC=1C=C(C2=C(CCO2)C1)C(CC(C=O)(C(F)(F)F)O)(C)C | C15H16F4O3
reactant | 5-amino-2-methylisoquinol-1(2H)-one | NC1=C2C=CN(C(C2=CC=C1)=O)C | C10H10N2O
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-[4-(5-Fluoro-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-pentylamino]-2-methylisoquinol-1(2H)-one | FC=1C=C(C2=C(CCO2)C1)C(CC(CNC1=C2C=CN(C(C2=CC=C1)=O)C)(C(F)(F)F)O)(C)C | C25H26F4N2O3
